US05278316
Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[2-[[2-(3,4-dihydro-1-naphthalenyl)ethyl]amino]-1-(1H-indol-3-ylmethyl)-1-methyl- 2-oxoethyl]carbamate
Following the procedure of Example 70, the title compound was prepared from 0.50 g (1.26 mmol) of 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan and 0.29 g (1.38 mmol) of 3,4-dihydro-1-naphthaleneethanamine hydrochloride. The purified product after chromatography was obtained as a white solid foam, 0.41 g (59%); 1H NMR (CDCl3) δ 1.48-1.99 (17H, m), 2.39-2.50 (2H, m), 2.67-2.82 (3H, m), 3.23-3.57 (3H, m), 3.99 (2H, t J 5.0 Hz), 4.84 (1H, br s), 5.24 (1H, br s), 5.73 (1H, m), 6.16 (1H, m), 7.00-7.63 (9H, m), 8.12 (1H, br s).

reactant | 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan | 1.26 mmol, 0.50 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | 3,4-dihydro-1-naphthaleneethanamine hydrochloride | 1.38 mmol, 0.29 g | Cl.C1(=CCCC2=CC=CC=C12)CCN
product | Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[2-[[2-(3,4-dihydro-1-naphthalenyl)ethyl]amino]-1-(1H-indol-3-ylmethyl)-1-methyl- 2-oxoethyl]carbamate | C1(=CCCC2=CC=CC=C12)CCNC(C(C)(CC1=CNC2=CC=CC=C12)NC(OC1C2CC3CC(CC1C3)C2)=O)=O | C35H41N3O3
